US06936629B2
Preparation of 4-[Methyl-(4-methyl-benzoyl)-amino]-2-phenyl-thiazole-5-carboxylic acid (Compound #1).
4-(4-methyl-benzoylamino)-2-phenyl-thiazole-5-carboxylic acid t-butyl ester (50 mg) was dissolved in anhydrous DMF (5 mL). NaH (16 mg, 60% dispersion oil) was added. The mixture was stirred for 10 min., followed by adding iodomethane (25 μL). Stirring was continued for overnight and poured into water. The aqueous solution was extracted with methylene chloride, washed with water, brine and dried over MgSO4. Solvent was removed under reduced pressure. The residue was purified on silica gel using hexane:EtOAc 95:5. 9:1 and 85:5 as eluent. It yielded 25 mg of desired product.

reactant | 4-(4-methyl-benzoylamino)-2-phenyl-thiazole-5-carboxylic acid t-butyl ester | 50 mg | C(C)(C)(C)OC(=O)C1=C(N=C(S1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)C)=O | C22H22N2O3S
reactant | NaH | 16 mg | [H-].[Na+]
reactant | iodomethane | 25 μL | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[Methyl-(4-methyl-benzoyl)-amino]-2-phenyl-thiazole-5-carboxylic acid | 25 mg | CN(C=1N=C(SC1C(=O)O)C1=CC=CC=C1)C(C1=CC=C(C=C1)C)=O | C19H16N2O3S
